US07049341B2
3-{4-Acetylamino-2-[3-(2-chloro-4,5-difluorobenzoyl)ureido]phenyl}acrylic acid
0.65 g (1.4 mmol) of methyl 3-{4-acetylamino-2-[3-(2-chloro-4,5-difluorobenzoyl)ureido]phenyl}acrylate was dissolved in 8 ml of tetrahydrofuran, and 8 ml of H2O and 0.17 g (7.2 mmol) of lithium hydroxide were added. After 15 hours at room temperature, the mixture was made acid with 2 N hydrochloric acid and extracted with ethyl acetate. The organic phase was dried, concentrated and stirred up with diethyl ether. The resulting precipitate was filtered off with suction and yielded 77 mg (13%) of the desired product.

reactant | methyl 3-{4-acetylamino-2-[3-(2-chloro-4,5-difluorobenzoyl)ureido]phenyl}acrylate | 1.4 mmol, 0.65 g | C(C)(=O)NC1=CC(=C(C=C1)C=CC(=O)OC)NC(=O)NC(C1=C(C=C(C(=C1)F)F)Cl)=O | C20H16ClF2N3O5
reactant | H2O | 8 ml | O | H2O
reactant | lithium hydroxide | 7.2 mmol, 0.17 g | [OH-].[Li+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 3-{4-Acetylamino-2-[3-(2-chloro-4,5-difluorobenzoyl)ureido]phenyl}acrylic acid | 77 mg, 13% | C(C)(=O)NC1=CC(=C(C=C1)C=CC(=O)O)NC(=O)NC(C1=C(C=C(C(=C1)F)F)Cl)=O | C19H14ClF2N3O5
